US07419997B2
N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1H-pyrazole-3-carboxamide was prepared from 1H-pyrazole-3-carboxylic acid and 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine in a similar manner as described above to give a white solid (16% yield). 1H-NMR (CD3OD-d4): δ 7.70 (d, 1H), 7.37 (d, 1H), 7.22 (d, 1H), 6.99 (dd, 1H), 6.81 (d, 1H), 5.37 (m, 1H), 2.70 (m, 2H), 2.19 (m, 1H), 2.00 (m, 3H); MS m/z 313 (M−1).

reactant | 1H-pyrazole-3-carboxylic acid | N1N=C(C=C1)C(=O)O | C4H4N2O2
reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
product | N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1H-pyrazole-3-carboxamide | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)C1=NNC=C1 | C16H15ClN4O
